US06162927
Propyl Pentanesulfonamide
Pentane sulfonyl chloride (687 mg, 4.03 mmol) was dissolved in 5 mL CH2Cl2 and added to an ice-cooled solution of n-propylamine (0.40 mL, 4.82 mmol) and ethyldiisopropylamine (0.85 mL, 4.88 mmol) in 5 mL CH2Cl2 under a nitrogen atmosphere. The reaction was stirred at 0° C. for 30 min, then at 25° C. for 4 h. The solution was partitioned between 20 mL of 1.0M aqeous NaHSO4 and 25 mL CH2Cl2. The organic phase was washed sequentially with 25 mL H2O and 25 mL brine, then dried (Na2SO4), filtered, and concentrated in vacuo to provide 739 mg (3.83 mmol, 95%) of the title compound as a white solid. TLC (25% EtOAc-hexane) Rf 0.23; 1H NMR (CDCl3, 300 MHz) δ0.92 (t, J=7 Hz, 3H), 0.97 (t, J=7 Hz, 3H), 1.28-1.50 (br m, 4H), 1.52-1.68 (m, 2H), 1.75-1.90 (br m, 2H), 2.98-3.06 (m, 2H), 3.08 (q, J=6 Hz, 2H), 4.10-4.23 (br m, 1H); MS (DCl/NH3) m/e 211 (M+NH4)+.

reactant | Pentane sulfonyl chloride | 4.03 mmol, 687 mg | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | n-propylamine | 4.82 mmol, 0.40 mL | C(CC)N | C3H9N
reactant | ethyldiisopropylamine | 4.88 mmol, 0.85 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Propyl Pentanesulfonamide | 3.83 mmol, 739 mg, 95% | C(CC)C(CCCC)S(=O)(=O)N | C8H19NO2S
